* Timer 555 Astable - Minimal Behavioral Model (FIXED)
* Level B: True Transient Benchmark
* Working oscillator with proper SR latch behavior using voltage-controlled switches

.title NE555 Astable - Behavioral Oscillator (Fixed)

.param R1=10k
.param R2=10k
.param C1=100n
.param VCC=5
.param VTH_HIGH={2*VCC/3}
.param VTH_LOW={VCC/3}

VCC vcc 0 {VCC}

* Standard 555 astable topology
R1_res vcc 7 {R1}
R2_res 7 2 {R2}
C_timing 2 0 {C1}

* Discharge transistor (NPN-like behavior)
Qdisch 7 discharge_ctrl 0 NPN555
.model NPN555 NPN(Bf=100 Br=1 Is=1e-15 Vaf=100)

* Comparator 1: Output HIGH when V(2) < VTH_LOW (SET)
* Using voltage-controlled switch with hysteresis
Bcmp1 set_node 0 V='VCC/(1+exp(60*(V(2)-VTH_LOW)))'
Eset set 0 set_node 0 1

* Comparator 2: Output HIGH when V(2) > VTH_HIGH (RESET)
Bcmp2 reset_node 0 V='VCC/(1+exp(-60*(V(2)-VTH_HIGH)))'
Ereset reset 0 reset_node 0 1

* SR Latch built from cross-coupled NOR gates
* NOR gate 1: output = NOT(set OR Q_bar)
* NOR gate 2: output = NOT(reset OR Q)

* Node for Q and Q_bar
Rq q 0 1Meg
Rq_bar q_bar 0 1Meg
Cq q 0 1p
Cq_bar q_bar 0 1p

* NOR gate implementation using voltage-controlled switches and pull-ups/pull-downs
* Q = NOR(RESET, Q_bar)

* Pull-up resistor for Q
Rpu_q vcc q 1k
* Switch to ground when RESET is HIGH
Sreset_q q 0 reset 0 SWNOR
.model SWNOR SW(Ron=1 Roff=1Meg Vt=2.5 Vh=0.5)
* Switch to ground when Q_bar is HIGH  
Sqbar_q q 0 q_bar 0 SWNOR

* Q_bar = NOR(SET, Q)
* Pull-up resistor for Q_bar
Rpu_q_bar vcc q_bar 1k
* Switch to ground when SET is HIGH
Sset_q_bar q_bar 0 set 0 SWNOR
* Switch to ground when Q is HIGH
Sq_q_bar q_bar 0 q 0 SWNOR

* Initial state: Q=HIGH, Q_bar=LOW
.ic V(q)=5 V(q_bar)=0

* Output buffer
Eout out 0 q 0 1

* Discharge control: discharge when Q=LOW
Edisch discharge_ctrl 0 q_bar 0 1

.options method=gear itl4=100
.tran 5u 50m uic

.print tran V(2) V(out) V(q) V(q_bar) V(7) V(set) V(reset)

.meas tran t_period TRIG V(2) VAL={VTH_LOW} RISE=1 TARG V(2) VAL={VTH_LOW} RISE=2
.meas tran freq PARAM '1/t_period' WHEN t_period > 0
.meas tran vout_high MAX V(out) FROM=0.1m TO=50m
.meas tran vout_low MIN V(out) FROM=0.1m TO=50m
.meas tran t_high TRIG V(out) VAL={VCC/2} RISE=1 TARG V(out) VAL={VCC/2} FALL=1
.meas tran t_low TRIG V(out) VAL={VCC/2} FALL=1 TARG V(out) VAL={VCC/2} RISE=2
.meas tran duty_cycle PARAM 't_high/(t_high+t_low)' WHEN t_high>0 & t_low>0

.end
