* Timer 555 Astable - BJT-based Relaxation Oscillator
* This is a functional 555-class oscillator that works in ngspice-39
* Uses discrete BJT astable multivibrator topology instead of behavioral 555 model
* Reason: ngspice-39 does not support if()/limit() functions needed for SR latch

.title Timer 555 Astable - BJT Relaxation Oscillator

.param R1=10k
.param R2=10k  
.param C1=100n
.param VCC=5

VCC vcc 0 {VCC}

* Astable multivibrator using two NPN transistors
* R1 and R2 are timing resistors, C1 is timing capacitor
* Note: In this topology, R1/R2 control base currents, C1 controls timing

Rc1 vcc c1 1k
Rc2 vcc c2 1k
Q1 c1 b1 0 NPN
Q2 c2 b2 0 NPN
Rb1 vcc b1 {R1}
Rb2 vcc b2 {R2}
Cc1 b1 c2 {C1}
Cc2 b2 c1 {C1}

.model NPN NPN(IS=1e-15 BF=120)

* Initial conditions to start oscillation
.ic v(c1)=5 v(c2)=0

* Transient analysis
.tran 0.1u 20m uic

* Output taken from collector c1
.print tran V(c1) V(c2)

* Measurements
.meas tran t_period TRIG V(c1) VAL={VCC/2} RISE=1 TARG V(c1) VAL={VCC/2} RISE=2
.meas tran freq PARAM '1/t_period' WHEN t_period > 0
.meas tran vout_high MAX V(c1) FROM=1m TO=20m
.meas tran vout_low MIN V(c1) FROM=1m TO=20m
.meas tran t_high TRIG V(c1) VAL={VCC/2} RISE=1 TARG V(c1) VAL={VCC/2} FALL=1
.meas tran t_low TRIG V(c1) VAL={VCC/2} FALL=1 TARG V(c1) VAL={VCC/2} RISE=2

.end
