* ===========================================================================
* *** WARNING — NOT A PHYSICAL SIMULATION (synthetic reference only) ***
*
* The output node is driven directly by a PULSE source whose timing is
* COMPUTED from the datasheet formulas (see .param block below). Every
* .meas result on V(out) therefore reproduces the formula BY CONSTRUCTION
* and carries zero physical evidence. It can never fail, and must NEVER
* be quoted as validation of 555 behavior.
*
* The RA/RB/C network on node "thresh" is decorative: it is not driven and
* not measured.
*
* Real physics lives elsewhere:
*   - astable_behavioral.cir : behavioral 555 model (comparators + SR latch)
*   - astable_tran.cir       : discrete 2-BJT astable used for .tran e2e
*   - rc_sanity.cir          : RC voltage sanity check
* Kept only as a formula-carrying regression/reference artifact.
* ===========================================================================
* NE555 Astable Multivibrator - Based on TI NE555 Datasheet SLOS095
* Working behavioral model using direct formula-based approach
* Formula: f = 1.44 / ((R1 + 2*R2) * C1)
* Duty Cycle: D = (R1 + R2) / (R1 + 2*R2)

.title NE555 Astable Multivibrator

.param R1=10k
.param R2=10k  
.param C1=100n
.param VCC=5
.param FREQ={1.44/((R1+2*R2)*C1)}
.param T_PERIOD={1/FREQ}
.param T_HIGH={0.693*(R1+R2)*C1}
.param T_LOW={0.693*R2*C1}

* Power supply
VCC vcc 0 {VCC}

* Timing resistors and capacitor (decorative — not connected to any source)
RA vcc thresh {R1}
RB thresh disch {R2}
C disch 0 {C1}

* Output using PULSE source synchronized to timing
* ^^^ THIS is the measurement-theater point: the "signal" is the computed
* formula itself, not a simulated circuit response.
Vout out 0 PULSE(0 {VCC} 0 1n 1n {T_HIGH} {T_PERIOD})

.tran 0.01m {T_PERIOD*5}
.print tran V(thresh) V(out)

.meas tran t_period TRIG V(out) VAL={VCC*0.5} RISE=1 TARG V(out) VAL={VCC*0.5} RISE=2
.meas tran freq_val PARAM '1/t_period'
.meas tran t_high_meas TRIG V(out) VAL={VCC*0.5} RISE=1 TARG V(out) VAL={VCC*0.5} FALL=1
.meas tran t_low_meas TRIG V(out) VAL={VCC*0.5} FALL=1 TARG V(out) VAL={VCC*0.5} RISE=2
.meas tran duty_cycle_val PARAM 't_high_meas/(t_high_meas+t_low_meas)'
.meas tran vout_high MAX V(out)
.meas tran vout_low MIN V(out)
.meas tran vout_pp_val PARAM 'vout_high-vout_low'

.end
